US07125888B2
4-(3-phenylimidazo[1,2-a]pyridin-7-yl)-1-(3-piperidin-1-ylpropyl)pyridin-2(1H)-one
To a solution of 4-(3-phenylimidazo[1,2-a]pyridin-7-yl)pyridin-2(1H)-one (0.050 g, 0.173 mmol) in 1.0 mL of anhydrous DMF was added sodium iodide (0.038 g, 0.260 mmol), cesium carbonate (0.140 g, 0.430 mmol), and 1-(3-chloropropyl)piperidine (0.0420 g, 0.25 mmol). Reaction was refluxed at 40° C. overnight. Poured reaction into saturated sodium bicarbonate solution and extracted with methylene chloride. Dried organic over sodium sulfate. Removed solvent under reduced pressure. Purified by silica chromatography (10% MeOH/CH2Cl2). 1H NMR (CDCl3) δ 8.40 (d, 1H, J=6.59 Hz), 7.92 (s, 1H), 7.78 (s, 1H), 7.62–7.52 (m, 4H), 7.50 (d, 1H, J=7.09 Hz), 7.45 (t, 1H, J=7.33 Hz), 7.06 (dd, 1H, J=7.08, 1.71 Hz), 6.84 (s, 1H), 6.50 (dd, 1H, J=7.08, 2.20 Hz), 4.08 (t, 2H, J=6.84 Hz), 2.40 (bs, 2H), 2.02 (bs, 2H), 1.62 (bs, 8H), 1.46 (bs, 2H). HRMS m/z (M+1) Calc: 413.2, found: 413.3.

reactant | 4-(3-phenylimidazo[1,2-a]pyridin-7-yl)pyridin-2(1H)-one | 0.173 mmol, 0.050 g | C1(=CC=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC(NC=C2)=O | C18H13N3O
reactant | sodium iodide | 0.260 mmol, 0.038 g | [I-].[Na+]
reactant | cesium carbonate | 0.430 mmol, 0.140 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(3-chloropropyl)piperidine | 0.25 mmol, 0.0420 g | ClCCCN1CCCCC1 | C8H16ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-(3-phenylimidazo[1,2-a]pyridin-7-yl)-1-(3-piperidin-1-ylpropyl)pyridin-2(1H)-one | C1(=CC=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC(N(C=C2)CCCN2CCCCC2)=O | C26H28N4O
